Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion, left visual field loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo right handed man with a history of
HTN who presents to the ED with a right occipital lobar
hemorrhage discovered on an outpatient head CT. Last ___ (1
week prior to presentation) he developed a headache, described 
as
frontal and mild. He does not typically get headaches. He was
sitting at his computer when the HA began. There was associated
nausea ___, that resolved after 1 day. He has also had some
dizziness. His wife describes some "disorientation" ___ and
says his speech and cognition has been "slower than usual."
Specifically, when picking her up from the train station 
___
after work, he missed a left turn and got lost driving home. BP
checked at home was 138/70.

___ he saw his PCP who thought his symptoms were probably
related to a mild systemic infection. BP at that time was 
146/90.
Lab work was obtained which revealed an elevated WBC to 15.8. He
has had a chronic leukocytosis so his PCP discussed this with
___ hematology who recommended a head CT (for the headache) 
and
___ clinic visit (scheduled for today). The head CT
revealed the hemorrhage, so he presented to the ED and missed 
his
hematology appointment.  

The headache has improved over the week and is mostly resolved
today. He has no other complaints.

 
Review of Systems: positive for recent weight loss and chronic
intermittent dizziness.
The pt denies loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait. The pt denies recent
fever or chills.  Denies cough, shortness of breath.  Denies
chest pain or palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria. Denies rash.

 
 
Past Medical History:
Pre-glaucoma
Hypercholesterolemia 
chronic leukocytosis
colon polyps
basal cell carcinoma s/p Mohs
H Pylori / PUD
HTN

 
Social History:
___
Family History:
Family History:
- father with CAD and ___ disease
- sister with ___ disease
- mother with gallbladder cancer

 
Physical Exam:
DISCHARGE EXAM
VS 98 Tmax, 94-115/59-74, HR 55-93, lRR 16, 99% on RA, Glucose 
98-200
Gen - NAD
Mental status - Alert, ___, ___, follows commands well
CN - L superior quadrantanopsia vs neglect. Face symmetric motor 
and sensation, tongue midline
Motor - ___ Delt, tric, IP bilaterally
Sensory - LT symmetric in arms and legs bilaterally

ADMISSION EXAMINATION
Vitals:  97.8  86  137/86  18  100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history, though
is at times perseverative and tangential. Language is fluent 
with
intact repetition and normal prosody. He had some difficulty
following complex commands in the exam (for ex. HSK test) and
became somewhat argumentative when frustrated. Pt. was able to
name both high and low frequency objects on the stroke card,
except called the key a "kitchen tool".  With reading, skipped
the first word of the sentence. Speech was not dysarthric. 
Mildly inattentive, skipped ___ when naming ___ backward.  

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  Left hemifield cut.
III, IV, VI: EOMI except for restricted upgaze bilaterally. 
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-snap bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline 
 
-Motor: Normal bulk throughout. Left hand with mild pronation 
but
no drift. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   1    1     1     2    1
R   1    1     1     2    1
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick throughout. 

-Coordination: No dysmetria on FNF bilaterally. 

-Gait: Unsteady standing with feet together (eyes open). Good
initiation. Narrow-based, normal stride. Stumbled to the left
once, but was otherwise steady. 

 
Pertinent Results:
LABS:
UA: RBC 3,  WBC 1,  Bact Few,  Yeast None,  Epi 0

136  96  22     AGap=17 
---I---I----< 113
4.2  27  1.0  

estGFR: 72 / >75 

18.6 > 15.5/46.4 < 208 
     
 N:31 Band:0 ___ M:5 E:0 Bas:0 Atyps: 6 Other: 4 Absneut: 5.77
Abslymp: 11.16 Absmono: 0.93 Abseos: 0.00 Absbaso: 0.00  

Comments: 
Other: Pending Review 
Anisocy: OCCASIONAL Poiklo: OCCASIONAL Macrocy: OCCASIONAL
Polychr: OCCASIONAL Ovalocy: OCCASIONAL Tear-Dr: OCCASIONAL 
Plt-Est: Normal

___: 12.7  PTT: 27.5  INR: 1.2  

IMAGING:
___ ___: OSH read
"acute right occipital hemorrhage with mild surrounding edema,
but no midline shift..." 

CTA Head/Neck
CT head: 
There is a 5.2 (AP) x 1.7 (TV) x 1.4 (SI) cm hyperdense 
parenchymal hemorrhage centered the right occipital lobe with 
adjacent vasogenic edema, which is relatively unchanged 
comparison to prior study.  Otherwise, the gray-white 
differentiation is intact.  There is mild periventricular 
hypodensity likely reflecting chronic microvascular changes.  
The ventricles and cortical sulci are normal in caliber 
configuration.  There is no significant mass effect. 
  
The orbits and calvarium are unremarkable.  There is a small 8 
mm areas 
attenuation at the left frontal scalp (5: 326), likely 
representing a 
sebaceous cyst.  There are small mucous retention cysts in the 
left frontal and bilateral maxillary sinuses.  There is mild 
mucosal thickening within the bilateral ethmoid sinuses.  The 
mastoid air cells and middle ears are unremarkable. 
  
CTA head:  There is mild calcific atherosclerosis of the 
bilateral carotid 
siphons, left greater than right, without significant luminal 
stenosis. The anterior and right posterior communicating 
arteries are visualized.  The left posterior communicating 
artery is not definitively visualized. There is a left dominant 
vertebral artery.  The anterior and posterior circulations are 
patent without evidence of occlusion, dissection, significant 
stenosis, or aneurysm. The dural venous sinuses are patent. 
Slightly dense appearance of the right transverse sinus and the 
right 
tentorial leaflet on the noncontrast study; however, there is 
relatively 
homogeneous enhancement of the right transverse sinus. 
  
CTA neck:  There is a 3 vessel aortic arch.  The carotid 
arteries are patent without significant stenosis by NASCET 
criteria.  The vertebral arteries are patent with left vertebral 
dominance.  There is no evidence of occlusion, dissection, 
significant stenosis, or aneurysm. 
  
There is a 1.9 x 2.4 cm heterogeneous nodule within the left 
thyroid lobe 
(5:99).  There is mild pleural calcification at the left lung 
apex.  The lung apices are clear.  The salivary glands are 
unremarkable.  There is streak artifact secondary to dental 
amalgam  which obscures adjacent structures.  Mild fullness in 
the left pyriform sinus. There is mixed density and nodularity 
at the posterior left neck, the largest of which measures 1.9 x 
1.4 cm (5:213), which may represent lymphadenopathy, small 
hematomas, complex lipomas or neoplastic lesions .  There is a 
small posterior left midline subcutaneous lipoma would measuring 
1 cm (5:164).  There are multilevel degenerative changes of 
cervical spine with canal and foraminal narrowing, at C4-5, C5-6 
and C6-7 levels.  
  
IMPRESSION: 
 
1. 5.2 x 1.7 x 1.4 cm hyperdense acute parenchymal hemorrhage in 
the right 
occipital lobe with adjacent vasogenic edema, which is 
relatively unchanged comparison to prior study.  No CT or CTA 
evidence of underlying mass or vascular malformation.  Recommend 
follow-up imaging to exclude occult underlying lesion which may 
be obscured by acute hemorrhage. 
2. Patent intracranial and neck vasculature without occlusion, 
dissection, 
significant stenosis, or aneurysm. 
3. 2.4 cm heterogeneous left thyroid lobe nodule.  Recommend 
nonurgent neck ultrasound further characterize this finding, if 
clinically warranted and not previously evaluated. 
4. Mixed density nodularity at the posterior left neck measuring 
1.1 x 0.4 cm suspicious for lymphadenopathy with differential 
including small soft tissue hematomas or complex lipomas or 
neoplastic lesions.  Recommend follow-up nonurgent ultrasound if 
these are not clinically compatible with hematomas. 
5. Other details as above 
  
RECOMMENDATION(S): 
1. 2.4 cm heterogeneous left thyroid lobe nodule. Recommend 
nonurgent neck 
ultrasound further characterize this finding, if clinically 
warranted and not previously evaluated. 
2. Mixed density nodularity at the posterior left neck measuring 
1.9 x 1.4 cm which may represent lymphadenopathy, small soft 
tissue hematomas, or complex lipomas. Recommend follow-up 
nonurgent ultrasound if these are not clinically compatible with 
hematomas. 

MRI Brain

1. Right occipital temporal lobe hemorrhage without definite 
intrinsic or 
surrounding enhancement. 
2. Superficial siderosis along the left frontal sulcus.  
Presence of chronic hemorrhage favors amyloid angiopathy as the 
underlying cause a right occipital hemorrhage.  However, a 
followup examination in ___ weeks is recommended to exclude 
underlying mass.  Amyloid Mild associated edema does not cause 
significant mass effect. 

 
Brief Hospital Course:
Mr. ___ is a ___ with h/o HTN presents with HA x 1 week 
transferred to our hospital after he was found with right lobar 
occipital IPH on an outpatient head CT.  On exam he was found to 
be inattentive (circumlocutious but able to provide a coherent 
narrative) with a large left hemifield cut that is predominantly 
a L-superior quadrantanopsia.   Head CT shows a R-occipital hge 
without intraventricular extension or significant perihematomal 
edema. The initial differential diagnosis included amyloid 
angiopathy, underlying mass, vascular malformation, and 
hypertensive hemorrhage.  The location of the bleed was felt to 
be not classic for HTN and his pressures were well-controlled on 
this hospitalization.  CTA showed no vascular malformation and 
subsequent MRI showed no mass.  The GRE sequence, however, did 
show increased signal and is consistent with superficial 
siderosis.  We think this is most likely a bleed from amyloid 
angiopathy.
 
We kept him on his home lisinopril for blood pressure control.  
We made a plan to STOP aspirin for now, as there is not a strong 
indication for him being on it.  Of note, on CTA head/neck he 
had an incidental finding of neck masses vs. lymphadenopathy.  
Given the patient's history of chronic leukocytosis, inpatient 
hematology was consulted.  They recommended outpatient neck 
ultrasound (ordered) and follow up with Dr. ___.

# Neuro:
-MRI brain with and without contrast: 
1. Right occipital temporal lobe hemorrhage without definite 
intrinsic or surrounding enhancement. 
2. Superficial siderosis along the left frontal sulcus.  
Presence of chronic 
hemorrhage favors amyloid angiopathy as the underlying cause a 
right occipital 
hemorrhage.  However, a followup examination in ___ weeks is 
recommended to 
exclude underlying mass.  Amyloid Mild associated edema does not 
cause 
significant mass effect. 
-HOLD asa, NSAIDs, other anti-platelet agents
-Pt needs 24-hour care with family due to OT needs (L visual 
loss/neglect).  The patient was warned adamantly that he should 
not drive.

# CV:
-Monitor by telemetry
-Goal SBP goal < 140.  Continue home lisinopril
-continue home atorvastatin 40mg qHS

# HEME: chronic leukocytosis with atypical RBC morphology; 
elevated INR
-CTA showed: Mixed density nodularity at the posterior left neck 
measuring 1.1 x 0.4 cm  suspicious for lymphadenopathy with 
differential including small soft tissue 
hematomas or complex lipomas or neoplastic lesions.  There was 
also a 2.4 cm heterogeneous left thyroid lobe nodule.  Recommend 
nonurgent neck 
ultrasound further characterize 
- Hematology consult for chronic elevated white blood cell 
count, no inpatient workup recommended. Recommend follow-up in 
___ with Dr. ___. 

AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
4. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Lisinopril 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right occipital hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ Neurology with headache and confusion 
concerning for a new stroke.  We performed a CT and MRI of your 
brain which showed that you had bleeding on the right side of 
your brain, in the occipital lobe, a region that controls 
vision.  On your exam you had evidence of problems with your 
left-sided vision which matches the findings on CT scan.  While 
you were hospitalized we controlled your blood pressure under 
systolic 140. We held your baby aspirin because it can worsen 
the bleeding in your head.  We think you should stop taking 
aspirin for now due to the risk of bleeding in the future.  

We think the most likely cause of your hemorrhagic stroke is a 
condition called amyloid angiopathy.  This is a chronic 
condition that affects the blood vessels in the brain and makes 
them prone to bleeding.  Going forward the best thing you can do 
to prevent future strokes is control your blood pressure and 
avoid medications that will make you prone to bleeding.

Also, during this hospitalization we consulted the Hematology 
Team for input on your chronic elevated white blood cell count.  
This has been stable for many years, but on our scan of your 
neck we found evidence of lymph nodes that should be evaluated 
further.  You should have a neck ultrasound done as outpatient 
and follow-up in ___ with Dr. ___.  

Please follow up in ___ Stroke as listed below.  Remain on the 
medications in your discharge summary but YOU WILL BE STOPPING 
ASPIRIN. 

Physical/Occupational Therapy requires that you have 24 HOUR 
CARE GOING FORWARD.  You must not drive after you are discharged 
as it would be extremely dangerous.
 
Followup Instructions:
___